US08455477B2
5-cyclopropyl-1-phenyl-1H-pyrazole (200 mg, 1.09 mmol) and N-iodosuccinimide (366 mg, 1.63 mmol) were added to acetonitrile (5 ml). The reaction mixture was heated to 70° C. After 6 hours, the reaction mixture was diluted with ethyl acetate, washed with 1N aqueous sodium hydroxide and brine, then dried over magnesium sulfate, filtered, and concentrated. The residue was purified by column chromatography on silica gel (ethyl acetate/hexanes gradient) to afford 5-cyclopropyl-4-iodo-1-phenyl-1H-pyrazole.

reactant | 5-cyclopropyl-1-phenyl-1H-pyrazole | 1.09 mmol, 200 mg | C1(CC1)C1=CC=NN1C1=CC=CC=C1 | C12H12N2
reactant | N-iodosuccinimide | 1.63 mmol, 366 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-cyclopropyl-4-iodo-1-phenyl-1H-pyrazole | C1(CC1)C1=C(C=NN1C1=CC=CC=C1)I | C12H11IN2
